US03995056
Dry sodium ethylate prepared from 2.51 g of sodium was added to 125 ml of anhydrous benzene and 13.5 ml of ethyl acetylacetate at 20° C and after heating at 100° C for 15 minutes, 27.5 g of 3-bromomethyl-benzophenone were added all at once. The reaction mixture was refluxed for 3 hours and after cooling to 20° C, the benzene solution was washed twice with 25 ml of 2N hydrochloric acid and then with water until the wash water was neutral. The solution was dried over sodium sulfate and evaporated to dryness under reduced pressure to obtain 33.8 g of raw product which was chromatographed over silica gel and was eluted with a 50-50 mixture of ether-petroleum ether (B.P. of 40°-60° C) to obtain 15.3 g of 3-(2'-oxo-3'-ethoxycarbonyl-butyl)-benzophenone in the form of a marron resin which was used as is for the next step.

reactant | sodium ethylate | CC[O-].[Na+]
reactant | sodium | 2.51 g | [Na] | Na
reactant | ethyl acetylacetate | 13.5 ml | C(C)(=O)CC(=O)OCC | C6H10O3
reactant | 3-bromomethyl-benzophenone | 27.5 g | BrCC=1C=C(C(=O)C2=CC=CC=C2)C=CC1 | C14H11BrO
solvent | benzene | 125 ml | C1=CC=CC=C1 | C6H6
product | 3-(2'-oxo-3'-ethoxycarbonyl-butyl)-benzophenone | 15.3 g | O=C(CC=1C=C(C(=O)C2=CC=CC=C2)C=CC1)C(C)C(=O)OCC | C20H20O4
